US07910613B2
[5-(3-Methyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-yl]-carbamic Acid tert-butyl ester
2-Tert-butoxycarbonylamino-4-phenyl-thiazole-5-carboxylic acid ethyl ester (1.9 g 5.6 mmol) was dissolved in dry THF (60 mL). Sodium hydride (60% in oil) and N-hydroxy-acetamidine (0.83 g, 11.2 mmol) dissolved in THF (30 mL) was added. The reaction mixture was heated to reflux over night. The reaction mixture was cooled and ethyl acetate (75 mL) glacial acetic acid (0.43 g) were added. The organic mixture was washed with brine (75 mL). The aqueous phase was extracted with ethylacetate The combined organic phases was washed with brine (50 mL) dried with MgSO4 and solvents were removed in vacuo to give a solid. Yield: 36%.

reactant | 2-Tert-butoxycarbonylamino-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 5.6 mmol, 1.9 g | C(C)OC(=O)C1=C(N=C(S1)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H20N2O4S
reactant | Sodium hydride | [H-].[Na+]
reactant | N-hydroxy-acetamidine | 11.2 mmol, 0.83 g | ONC(C)=N | C2H6N2O
reactant | ethyl acetate | 75 mL, 0.43 g | C(C)(=O)OCC | C4H8O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [5-(3-Methyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-yl]-carbamic Acid tert-butyl ester | Yield: 36% | C(C)(C)(C)OC(NC=1SC(=C(N1)C1=CC=CC=C1)C1=NC(=NO1)C)=O | C17H18N4O3S
